US06562844B2
BAL Resin Immobilized 5-(S)-Aminomethyl-3-[4′-dimethoxymethyl-3′-fluorophenyl]-oxazolidine-2-one
Triphenylphosphine (0.130 g, 0.496 mmol) was added to a mixture of BAL aldehyde resin (0.57 g, 0.165 mmol) and 5-(S)-azidomethyl-3-[4′-dimethoxymethyl-3′-fluorophenyl]-oxazolidine-2-one (0.154 g, 0.496 mmol) in THF (3 ml) at room temperature. The mixture was stirred at room temperature for 2 h, and then at 75° C. for 16 h. The mixture was cooled to room temperature, and 1 M sodium cyanoborohydride in THF (0.99 ml, 0.992 mmol) was added in one portion. The reaction mixture was agitated for 8 h. The resulting amine resin was washed liberally with methanol and dichloromethane and dried under vacuum.

reactant | Triphenylphosphine | 0.496 mmol, 0.130 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | aldehyde resin | 0.165 mmol, 0.57 g | C1=CC=C(C=C1)CNC(=O)CN2C=C(C3=CC=CC=C32)C=O | C18H16N2O2
reactant | 5-(S)-azidomethyl-3-[4′-dimethoxymethyl-3′-fluorophenyl]-oxazolidine-2-one | 0.496 mmol, 0.154 g | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(OC)OC)F | C13H15FN4O4
reactant | sodium cyanoborohydride | 1 M | C(#N)[BH3-].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 0.992 mmol, 0.99 ml | C1CCOC1 | C4H8O
product | 5-(S)-Aminomethyl-3-[4′-dimethoxymethyl-3′-fluorophenyl]-oxazolidine-2-one | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(OC)OC)F | C13H17FN2O4
